US07750155B2
To a solution of methyl (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylate (235 mg) in MeOH (1.9 mL) was added 1N NaOH aq. (1.2 mL), which was stirred at 55° C. for 1 hour. To the reaction mixture was added 1N—HCl aq. (1.2 mL), and evaporated in vacuo to give a crude (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid as, a brown solid (0.310 mg). This was used next reaction without purification.

reactant | methyl (2E)-3-[5-({(3R)-1-[2-(dimethylamino) benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylate | 235 mg | CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)OC)C=CC=C1)C | C21H27N5O2
reactant | NaOH | 1N, 1.2 mL | [OH-].[Na+]
reactant | HCl | 1.2 mL | Cl | ClH
solvent | MeOH | 1.9 mL | CO | CH4O
product | (2E)-3-[5-({(3R)-1-[2-(dimethylamino)benzyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid | CN(C1=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)O)C=CC=C1)C | C20H25N5O2
